US05134189
To 150 g of isopropanol were added 55 g of ethyl acrylate, 35 g of methyl methacrylate and 10 g of methacrylic acid. To the resulting mixture was added 0.5 g of benzoyl peroxide, and thereafter, the mixture thus-obtained was subjected to polymerization reaction at 80° C. for 7 hours. Subsequently, 200 g of water and 4 g of 28% ammonia water were added thereto, and then, the isopropanol was completely removed by distillation to obtain an ethyl acrylate/methyl methacrylate copolymer.

reactant | ethyl acrylate | 55 g | C(C=C)(=O)OCC | C5H8O2
reactant | methyl methacrylate | 35 g | C(C(=C)C)(=O)OC | C5H8O2
reactant | methacrylic acid | 10 g | C(C(=C)C)(=O)O | C4H6O2
reactant | benzoyl peroxide | 0.5 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | ammonia water | 4 g | O.N
solvent | water | 200 g | O | H2O
solvent | isopropanol | 150 g | C(C)(C)O | C3H8O
product | ethyl acrylate methyl methacrylate | C(C=C)(=O)OCC.C(C(=C)C)(=O)OC | 2C5H8O2
